US07851490B2
5-Chloro-2-(3-nitro-phenyl)-thiazole
To a stirred solution of 2-(3-nitro-phenyl)-thiazole (18.5 g, 89.7 mmol) in a mixture of chloroform (150 ml) and anhydrous DMF (40 ml) was slowly added sulfuryl chloride (28.2 ml, 359 mmol). After the addition, the resultant mixture was stirred at reflux for 3 hours. The cooled mixture was concentrated under reduced pressure and the residue was partitioned between aqueous calcium chloride (3M) and ethyl acetate. The organic layer was washed with aqueous sodium carbonate, dried over magnesium sulphate and evaporated to dryness to leave the desired product. 20.6 g (80%).

reactant | 2-(3-nitro-phenyl)-thiazole | 89.7 mmol, 18.5 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1SC=CN1 | C9H6N2O2S
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
reactant | sulfuryl chloride | 359 mmol, 28.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-2-(3-nitro-phenyl)-thiazole | ClC1=CN=C(S1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H5ClN2O2S
